US05221676
7-[3-(3-Amino-2-pyridinyl)-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.81 g, 3.1 mmol) and 2-(3-pyrrolidinyl)-3-pyridinamine, a procedure analogous to that given in Example 1 provided the title compound (1.15 g, 91%) as an off-white solid, mp >270° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.1 mmol, 0.81 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 2-(3-pyrrolidinyl)-3-pyridinamine | N1CC(CC1)C1=NC=CC=C1N | C9H13N3
product | 7-[3-(3-Amino-2-pyridinyl)-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.15 g, 91% | NC=1C(=NC=CC1)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C22H21FN4O3
